US07528129B2
20c) (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate
A suspension of 1.80 g (3.03 mmol) (R)-1-carboxy-2-(4-benzyloxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate and 300 mg 10% Pd/C in 30 mL THF and 30 mL MeOH was hydrogenated at 3000 hPa hydrogen pressure and RT for 48 h. The catalyst was suction filtered, the filtrate was evaporated down and the residue was purified by HPLC; the fractions containing the product were combined and lyophilised.

reactant | (R)-1-carboxy-2-(4-benzyloxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate | 3.03 mmol, 1.80 g | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)C(=O)O | C34H34N4O6
reactant | hydrogen | [H][H] | H2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O | C27H28N4O6
